US07528136B2
b) (2S,4R)-4-Azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of 4-iodo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (20 mmol, 1 equiv) in DMF was added NaN3 (2.5 equiv, 50 mmol), the resulting mixture was heated to 65 centigrade and stirred overnight. The mixture was diluted with water, extracted with AcOEt and dried over Na2SO4. After removal of solvent, the residue was purified by chromatography on silica gel to give title product (4.94 g) as colorless oil in 90% yield. MS m/e=271.5 [M+H]+.

reactant | 4-iodo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 20 mmol, 1 equiv | COC(=O)C1N(CC(C1)I)C(=O)OC(C)(C)C | C11H18INO4
reactant | NaN3 | 50 mmol, 2.5 equiv | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2S,4R)-4-Azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 4.94 g, 90% yield | COC(=O)[C@H]1N(C[C@@H](C1)N=[N+]=[N-])C(=O)OC(C)(C)C | C11H18N4O4
